US04071524
To 58.1 g. (0.212 mole) of 1,4-bis(2,2,2-trifluoroethoxy)benzene in 400 ml. of trifluoroacetic acid is added dropwise with stirring 13.7 ml. of concentrated nitric acid over 3.5 hours at 25 ± 2° C. Stirring is continued for 24 hours, then the mixture is concentrated to one-third the original volume. The concentrate is poured into 600 ml. of water, and the resulting solution is extracted twice with diethyl ether. The ether solution is washed thrice with saturated sodium chloride solution, then with dilute sodium hydroxide solution until the washings are basic. The solution is washed again with saturated sodium chloride solution, dried and evaporated. The liquid residue is distilled to provide 2,5-bis(2,2,2-trifluoroethoxy)nitrobenzene as a clear, pale yellow liquid, b.p. 116°-119° C/0.35 mm Hg.

reactant | 1,4-bis(2,2,2-trifluoroethoxy)benzene | 0.212 mole | FC(COC1=CC=C(C=C1)OCC(F)(F)F)(F)F | C10H8F6O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 2,5-bis(2,2,2-trifluoroethoxy)nitrobenzene | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)[N+](=O)[O-])(F)F | C10H7F6NO4
